US05151497
trans-2-Methyl-4-oxocyclopentanecarboxylic acid
Methyl trans-2-methyl-4-oxocyclopentanecarboxylate [K. Kojima et at., Chem. Pharm. Bull., 33, 2750 (1985)] (495 mg) was dissolved in methanol (3 ml), and a 1N aqueous solution of sodium hydroxide (3.5 ml) was added to the solution at 0° C. After the mixture was stirred at room temperature for 1 hour, it was acidified with dilute hydrochloric acid, followed by extraction with ether. The extract was concentrated to dryness and the residue was subjected to silica gel column chromatography with ethyl acetate-chloroform (1:1) as eluent, and the eluted fractions were combined and concentrated to dryness to afford the title compound (219 mg) as crystals.

reactant | Methyl trans-2-methyl-4-oxocyclopentanecarboxylate | 495 mg | C[C@H]1[C@@H](CC(C1)=O)C(=O)OC | C8H12O3
reactant | sodium hydroxide | 3.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | trans-2-Methyl-4-oxocyclopentanecarboxylic acid | 219 mg | C[C@H]1[C@@H](CC(C1)=O)C(=O)O | C7H10O3
